US04409018
2-(4-Chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-phenylthio-1H-isoindol-1-one
In 30 ml of dichloromethane were dissolved 3.0 g of 3-chloro-2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-1H-isoindol-1-one and 1.1 g of thiophenol, and 1.0 g of triethylamine was added to the solution over a 10-minute period, followed by stirring at room temperature for 2 hours. The reaction mixture was washed with water, dried over anhydrous sodium sulfate and freed of the dichloromethane under reduced pressure. The residue was purified by means of column chromatography with the use of silica gel (developing solvent of dichloromethaneacetone), thereby producing 3.2 g (yield of 86%) of the subject compound in white crystals, m.p. 86°-87° C.

reactant | 3-chloro-2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-1H-isoindol-1-one | 3.0 g | ClC1N(C(C=2CCCCC12)=O)C1=C(C=C(C=C1)Cl)F | C14H12Cl2FNO
reactant | thiophenol | 1.1 g | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(4-Chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-phenylthio-1H-isoindol-1-one | 3.2 g, yield of 86% | ClC1=CC(=C(C=C1)N1C(C=2CCCCC2C1SC1=CC=CC=C1)=O)F | C20H17ClFNOS
